US04626533
2.72 g. of 7-aminocephalosporanic acid (7-ACA) were suspended in 15 ml. of anhydrous acetonitrile and 5.68 g. of boron trifluoride etherate were added. The reaction mixture was stirred at 40° C. for 5 hours. The solvent was evaporated in vacuo and the residue as taken up with 30 ml. of water. The pH of the solution was adjusted to 3.5 by adding about 10 ml. of a 25% aqueous sodium hydroxide solution and the precipitate separated (the unreacted 7-ACA) was filtered off. The pH of the mixture was adjusted to 7 by adding potassium phosphate solution, thereafter the mixture was diluted with 10 ml. of acetone. 2.4 g. (0.015 moles) of 2-thienylacetyl chloride dissolved in 4 ml. of anhydrous acetone were added to the mixture dropwise at 0° to 5° C. and during the addition the pH of the mixture was maintained between 7 and 8. After the mixture had been stirred for a further hour at room temperature at a pH of 7 to 8 the reaction was accomplished. The pH of the reaction mixture was adjusted to 5 by adding some diluted sulphuric acid, and then the solution was extracted with 30 ml. of ethyl acetate. The pH of the aqueous phase was adjusted to 2 by adding some diluted sulphuric acid and the mixture was extracted with 60 ml. of ethyl acetate. The organic extract was dried over magnesium sulphate. The solvent was evaporated in vacuo, the residue was treated with ether, filtered and washed. 2.76 g. of 7-(2-thienyl)acetylamino-3-acetylaminomethylceph-3-em-4-carboxylic acid were obtained in powder form.

reactant | 7-aminocephalosporanic acid | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | boron trifluoride etherate | B(F)(F)F.CCOCC
reactant | 2-thienylacetyl chloride | 0.015 moles | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | acetonitrile | C(C)#N | C2H3N
solvent | acetone | CC(=O)C | C3H6O
product | 7-(2-thienyl)acetylamino-3-acetylaminomethylceph-3-em-4-carboxylic acid | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)CNC(C)=O)C(=O)O)C1=O | C16H17N3O5S2
